US07576095B2
Step 1 4-(2-Chloro-4-fluorophenylamino)-5,6,3′,4′,5′,6′-hexahydro-2′H-[1,1′]bipyridinyl-2-one
[1,1′]-Bipiperidinyl-2,4-dione (2.00 g, 10.19 mmol) was dissolved in toluene (8 ml) and 2-chloro-4-fluorophenylamine (1.78 g, 12.23 mmol) was added. More toluene (5 ml) was added. The reaction mixture was boiled under reflux at 110° C. for 17 h then allowed to cool. When the reaction mixture reached rt the product precipitated and it was collected by filtration to yield a beige solid (1.80 g, 55%).

reactant | [1,1′]-Bipiperidinyl-2,4-dione | 10.19 mmol, 2.00 g | N1(C(CC(CC1)=O)=O)N1CCCCC1 | C10H16N2O2
reactant | 2-chloro-4-fluorophenylamine | 12.23 mmol, 1.78 g | ClC1=C(C=CC(=C1)F)N | C6H5ClFN
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Chloro-4-fluorophenylamino)-5,6,3′,4′,5′,6′-hexahydro-2′H-[1,1′]bipyridinyl-2-one | 1.80 g, 55% | ClC1=C(C=CC(=C1)F)NC1=CC(N(CC1)N1CCCCC1)=O | C16H19ClFN3O
